US07342032B2
Part B: 5-(4-Bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid (0.50 gram, 1.17 mmol) and diisopropylethylamine (DIPEA) (1.02 mL, 5.85 mmol) are dissolved in dichloromethane (5 mL) and cooled to 0° C. 7-Aza-1-hydroxybenzotriazole (HOAt) (0.11 gram, 0.81 mmol) and 2-chloro-1,3-dimethylimidazolinium hexafluorophosphate (CIP) (0.50 gram, 1.76 mmol) are added, followed by addition of n-pentylamine (0.15 gram, 1.76 mmol) and the resulting mixture is stirred at room temperature overnight. Flash chromatographic purification (dichloromethane) gives 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-N-(n-pentyl)thiazole-2-carboxamide as an amorphous solid (0.28 gram, 48% yield).

reactant | 5-(4-Bromophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid | 1.17 mmol, 0.50 gram | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H8BrCl2NO2S
reactant | diisopropylethylamine | 5.85 mmol, 1.02 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-Aza-1-hydroxybenzotriazole | 0.81 mmol, 0.11 gram | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 2-chloro-1,3-dimethylimidazolinium hexafluorophosphate | 1.76 mmol, 0.50 gram | F[P-](F)(F)(F)(F)F.ClC1[NH+](CCN1C)C
reactant | n-pentylamine | 1.76 mmol, 0.15 gram | C(CCCC)N | C5H13N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-(4-bromophenyl)-4-(2,4-dichlorophenyl)-N-(n-pentyl)thiazole-2-carboxamide | 0.28 gram, 48% yield | BrC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)NCCCCC)C1=C(C=C(C=C1)Cl)Cl | C21H19BrCl2N2OS
